US09328110B2
Oxalyl chloride (2.62 mL, 30.1 mmol) was added to a solution of 5-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)pentanoic acid (5.21 g, 16.7 mmol) in dichloromethane (50 mL) at room temperature. The reaction was stirred for 1 hour, then the volatiles were removed under reduced pressure. Dichloromethane (50 mL) was added to the residue, followed by N,O-dimethylhydroxylamine hydrochloride (3.26 g, 33.5 mmol) and N,N-dimethylformamide (2 mL). The reaction mixture was stirred at room temperature overnight, then was concentrated under reduced pressure. The residue was diluted with dichloromethane and an ammonium hydroxide solution. The mixture was transferred to a separatory funnel and the layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford 5.5 g of crude N-methoxy-N-methyl-5-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)pentanamide as a brown oil that was used without purification in the next step.

reactant | Oxalyl chloride | 30.1 mmol, 2.62 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)pentanoic acid | 16.7 mmol, 5.21 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCC(=O)O | C18H21N3O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 33.5 mmol, 3.26 g | Cl.CNOC
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-5-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)pentanamide | 5.5 g | CON(C(CCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O)C | C20H26N4O2
